US04060616
A mixture of guanine diacetate (1.31 g), 2-(2-benzoyloxyethoxy)ethoxymethyl acetate (2.37 g), p-toluenesulfonic acid (32 mg) and mineral oil (5.2 g) was heated at 120° C. with stirring for 18 hours. The reaction mixture was cooled and the mineral oil decanted off. The residue was triturated with benzene and the benzene decanted off. To the residue was added 40% aqueous methylamine (10 ml), and the mixture was heated in a steam bath for 30 minutes. The water and methylamine were removed under reduced pressure and the residue extracted with hot ethanol. The ethanol-insoluble material was dissolved in boiling methanol, filtered, concentrated to 125 ml and cooled to room temperature, precipitating an impure product (166 mg) which was unmoved by filtration. The filtrate was chilled and 9-[2-(2-hydroxyethoxy)ethoxymethyl]guanine (80 mg, m.p. 184°-187° C.) was obtained.

reactant | guanine diacetate | 1.31 g | C(C)(=O)O.C(C)(=O)O.N1C(N)=NC=2N=CNC2C1=O
reactant | 2-(2-benzoyloxyethoxy)ethoxymethyl acetate | 2.37 g | C(C)(=O)OCOCCOCCOC(C1=CC=CC=C1)=O | C14H18O6
reactant | p-toluenesulfonic acid | 32 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 9-[2-(2-hydroxyethoxy)ethoxymethyl]guanine | 80 mg | OCCOCCOCN1C=2N=C(NC(C2N=C1)=O)N | C10H15N5O4
